### PR TITLE
Continuation hole

### PR DESCRIPTION
**Pull request by adelaett**
Using continuation holes and the new typing invariant.

Must repair the proofs.

### CODE REVIEW

**Comment by adelaett** [comment]
@denismerigoux you wanted to review the changes.

I want to merge so i can make other PR on top of this one with the others solutions we discussed together.

File: theories/continuations.v [hunk 1]
```diff
@@ -461,182 +474,285 @@ Proof.
...
+  forall s1 s2,
+    continuations.cred s1 s2 ->
+    forall s1',
+      s1 = apply s1' ->
+      exists s2',
+        star cred s1' s2' /\ s2 = apply s2'.
 Proof.
-  induction 1; try solve [simpl; try lia; eauto].
-Qed.
+  (* intros s1 s2.
```
Comment (denismerigoux) [inline theories/continuations.v]: Is this a dead proof? Can it be removed altogether?

File: theories/simulation_sred_to_cred.v [hunk 2]
```diff
@@ -0,0 +1,2140 @@
...
+Lemma Empty_eq_Empty : Empty = Empty.
+Proof.
+  reflexivity.
+Qed.
+
+Import Learn.
+
+Ltac dsimpl :=
+  repeat match goal with
+  (* (* | [h: ?t = Empty |- context [apply_CDefault (Some _) _ _ _ ?t _]] =>
```
Comment (denismerigoux) [inline theories/simulation_sred_to_cred.v]: Can this be deleted now?

File: theories/simulation_sred_to_cred.v [hunk 3]
```diff
@@ -0,0 +1,2140 @@
...
+  destruct t'; asimpl; intros; tryfalse; inj; eauto;
+  match goal with
+  | [h: _ = subst_of_env ?env ?x |- _ ] =>
+    unfold subst_of_env in h;
+    destruct (List.nth_error env x);
+    inj
+  end.
+Qed.
+
+(* Lemma subst_of_env_Var {x t' env}:
```
Comment (denismerigoux) [inline theories/simulation_sred_to_cred.v]: Unused lemma?

File: theories/simulation_sred_to_cred.v [hunk 4]
```diff
@@ -0,0 +1,2140 @@
...
+  | [h: sred Conflict _ |- _] => inversion h
+  | [h: sred Empty _ |- _] => inversion h
+  | [h: sred (Value _) _ |- _] => inversion h
+  | _ => repeat (simpl in *; injections; subst)
+  end; tryfalse
+.
+
+(* -------------------------------------------------------------------------- *)
+
+(* The following dead code was related to an old version of the semantics that used the count of non-empty values inside the Default to reduce. *)
```
Comment (denismerigoux) [inline theories/simulation_sred_to_cred.v]: If not used anymore, you can delete it?

File: theories/syntax.v [hunk 5]
```diff
@@ -31,6 +31,7 @@ Inductive term :=
   | Match_ (u t1: term) (t2: {bind term})
   | ENone
   | ESome (t: term)
+  (* | Fold (f: {bind 2 term}) (ts: list term) (t: term) *)
```
Comment (denismerigoux) [inline theories/syntax.v:34]: I guess this you will add later in your work :)

**Review by denismerigoux — APPROVED** [review]
Thanks @adelaett ! I left several markers where I think you can clean up old commented code. Remember that in the end, the repo will have to be clean since we will submit it as an artifact to the future paper :)

File: theories/syntax.v (hunk 5 above)
Comment (adelaett) [reply theories/syntax.v:34]: yes indeed!
